US06265411B1
A solution of 5-acetamidooxindole (212 mg, 1.1 mmol), (Zh. Obshch. Khim 1956, 26, 2019-2022), in DMF (2 ml) was added dropwise to sodium hydride.(89 mg, 2.23 mmol, prewashed with THF) in DMF (2 ml). The mixture was stirred for 5 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (100 mg, 0.37 mmol), (prepared as described for the starting material in Example 2), in DMF (2 ml) was added. The mixture was stirred for 1.5 hours at ambient temperature, the solvent was removed by evaporation and the mixture was partitioned between methylene chloride and water. The aqueous layer was adjusted to pH7 with 2M hydrochloric acid. The organic layer was separated, dried (MgSO4) and the solvent was removed by evaporation. The residue was purified by chromatography eluting with methanol/methylene chloride (gradient from 5/95 to 15/85). The purified solid was dissolved in methylene chloride and 4M methanolic hydrogen chloride (4ml) was added. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum at 60° C. to give 4-(5-acetamidooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (95 mg, 56%).

reactant | 5-acetamidooxindole | 1.1 mmol, 212 mg | C(C)(=O)NC=1C=C2CC(NC2=CC1)=O | C10H10N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.37 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(5-acetamidooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 95 mg, 56% | Cl.C(C)(=O)NC=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | InChI=1S/C22H22N4O5.ClH/c1-12(27)25-13-4-5-16-14(8-13)20(22(28)26-16)21-15-9-18(30-3)19(31-7-6-29-2)10-17(15)23-11-24-21;/h4-5,8-11,20H,6-7H2,1-3H3,(H,25,27)(H,26,28);1H
